data/mechanism_extracts/AdvSynthCatal/10.1002_adsc.202300949.json
{"doi": "10.1002_adsc.202300949", "journal": "AdvSynthCatal", "is_review": false, "rxn_class_summary": "Electrochemical intramolecular oxyselenenylation of N-allylureas with diaryl diselenides to access selenomethyl-substituted cyclic isoureas (5- to 7-membered) via C-O/C-Se bond formation", "mechanism_family": ["mediator_anodic", "cation_initiated", "carbocation"], "electrochemical_role": "Anodic single-electron oxidation of diphenyl diselenide (PhSeSePh) generates the electrophilic phenylselenenyl cation (PhSe+); cathode reduces protons to H2", "key_intermediates": [{"name": "phenylselenenyl cation (PhSe+) generated by anodic SET on PhSeSePh", "smiles": "[Se+]c1ccccc1", "role": "reactive"}, {"name": "seleniranium/thiiranium-like ion (B) from PhSe+ addition across the allyl C=C of the N-allylurea", "smiles": null, "role": "reactive"}, {"name": "selenomethyl-substituted cyclic isourea product 3a after intramolecular O-attack and deprotonation", "smiles": null, "role": "transient"}], "electron_flow": "At the anode, PhSeSePh loses two electrons to give 2 equiv of PhSe+; PhSe+ adds to the alkene of the N-allylurea forming a seleniranium-type cation B, which is opened by intramolecular nucleophilic attack of the urea oxygen, followed by loss of H+. The cathode reduces 2H+ to H2.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Reaction proceeded smoothly with 1 equiv TEMPO giving 3a in 80% yield, indicating no free radical pathway"}, {"name": "BHT", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "Reaction proceeded smoothly with 1 equiv BHT giving 3a in 79% yield, no inhibition"}, {"name": "phenyl hypochloroselenoite (PhSeCl, 5a)", "smiles": "Cl[Se]c1ccccc1", "purpose": "intermediate_trap", "observation": "Reaction of 1a with PhSeCl under standard conditions without electrolysis afforded 3a in 13% yield, supporting involvement of an electrophilic PhSe+ species"}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_BHT", "cyclic_voltammetry", "stoichiometric_intermediate"], "evidence_strength": "medium", "notes": "CV shows PhSeSePh (2a) oxidizes at ~1.0 V vs Ag/AgCl while 1a oxidizes at ~1.3 V, confirming the diselenide (not the urea/alkene) is the species oxidized at the anode. Authors initially describe the pathway as a 'cationic radical mechanism' based on TEMPO/BHT not inhibiting and the PhSeCl experiment, but the proposed cycle (Figure 3) is fundamentally a two-electron electrophilic selenocyclization via PhSe+ (cation-initiated), with no discrete C-centered radical invoked."}
